US05030644
The starting material, 4-chloro-1,3-dimethylimidazoline-2-thione was first prepared by adding dropwise and intimately admixing 5.68 grams (0.04 mol) of methyl iodide to a solution of 4.0 grams (0.0343 mol) of 5-chloro-1-methylimidazole in 25 milliliters of methylene chloride. The resulting mixture was stirred overnight at room temperature whereupon a crystalline product was found to have formed. The latter was recovered with cold methylene chloride to obtain 1,3-dimethyl-5-chloroimidazolium chloride.

reactant | 4-chloro-1,3-dimethylimidazoline-2-thione | ClC1N(C(N(C1)C)=S)C | C5H9ClN2S
reactant | methyl iodide | 0.04 mol, 5.68 grams | CI | CH3I
reactant | 5-chloro-1-methylimidazole | 0.0343 mol, 4.0 grams | ClC1=CN=CN1C | C4H5ClN2
solvent | methylene chloride | 25 milliliters | C(Cl)Cl | CH2Cl2
product | 1,3-dimethyl-5-chloroimidazolium chloride | [Cl-].C[N+]1=CN(C=C1Cl)C | InChI=1S/C5H8ClN2.ClH/c1-7-3-5(6)8(2)4-7;/h3-4H,1-2H3;1H/q+1;/p-1
